US07504417B2
2-Amino-N-(5-chloro-2-pyridyl)-3-hydroxybenzamide (5.27 g) was dissolved in 60 ml of N,N-dimethylformamide and the solution was stirred at −15° C. N-Bromosuccinimide (3.56 g) was added thereto by dividing into four with an interval of 5 minutes each and the mixture was stirred at −15° C. for 1.5 hours. Then more 0.36 g of N-bromosuccinimide was added thereto, the mixture was stirred at −15° C. for 2 hours, then 120 ml of water and 120 ml of ethyl acetate were added thereto and the mixture was stirred at room temperature for 10 minutes. The resulting precipitate was filtered through Celite and an organic layer in the filtrate was collected while an aqueous layer was further extracted with ethyl acetate. Active carbon powder (2.6 g) was added to the resulting organic layer and the mixture was stirred for 15 minutes and filtered through Celite. The filtrate was washed with water and dried over anhydrous sodium sulfate, the solvent was evaporated in vacuo and the residue was dried to give 5.70 g of 2-amino-5-bromo-N-(5-chloro-2-pyridyl)-3-hydroxybenzamide.

reactant | 2-Amino-N-(5-chloro-2-pyridyl)-3-hydroxybenzamide | 5.27 g | NC1=C(C(=O)NC2=NC=C(C=C2)Cl)C=CC=C1O | C12H10ClN3O2
reactant | N-Bromosuccinimide | 3.56 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | N-bromosuccinimide | 0.36 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | water | 120 ml | O | H2O
reactant | ethyl acetate | 120 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 2-amino-5-bromo-N-(5-chloro-2-pyridyl)-3-hydroxybenzamide | 5.70 g | NC1=C(C(=O)NC2=NC=C(C=C2)Cl)C=C(C=C1O)Br | C12H9BrClN3O2
